US05466718
SYNTHESIS Of FARNESYL PHENYLACETATE
A mixture of farnesol (440 mg, 2 mmol) and phenylacetyl chloride (584 mg, 7.8 mmol) was refluxed for 2.5 hours. Extraction with hexane, and purification yielded 368 mg (yield: 54%) of oil having the following physical properties.

reactant | farnesol | 2 mmol, 440 mg | OCC=C(C)CCC=C(C)CCC=C(C)C | C15H26O
reactant | phenylacetyl chloride | 7.8 mmol, 584 mg | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
product | FARNESYL PHENYLACETATE | 368 mg, yield: 54% | C1(=CC=CC=C1)CC(=O)OCC=C(C)CCC=C(C)CCC=C(C)C | C23H32O2
